US06384028B1
To a solution of N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine ethyl ester (0.8 g) in ethyl acetate (8 ml) was added 4N HCl in ethyl acetate (4.3 ml) at 0° C., and the reaction mixture was stirred for 2 hours at room temperature. The reaction mixture was concentrated in vacuo, and resolved in water, neutralized with saturated aqueous NaHCO3, desalted by using the resin of HP-20 eluting with isopropanol-H2O (1:1), then freeze-dried to give N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine ethyl ester (458 mg).

reactant | N-[(R)-1-[3-(1-tert-butoxycarbonyl-4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine ethyl ester | 0.8 g | C(C)OC(CCNC(=O)[C@H]1CN(CCC1)C(\C=C\C1CCN(CC1)C(=O)OC(C)(C)C)=O)=O | C24H39N3O6
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4.3 ml | C(C)(=O)OCC | C4H8O2
product | N-[(R)-1-[3-(4-piperidyl)-(E)-acryloyl]-3-piperidylcarbonyl]-β-alanine ethyl ester | 458 mg | C(C)OC(CCNC(=O)[C@H]1CN(CCC1)C(\C=C\C1CCNCC1)=O)=O | C19H31N3O4
